US09061965B2
I-Bromooctane (332 g, 1.72 mol) was added to a stirring mixture of levulinic acid (200 g, 1.72 mol), tetrabutylammonium bromide (55.1 g, 0.17 mol), and K2CO3 (357 g, 2.58 mol) in DMF (500 mL) drop-wise and stirred at room temperature for overnight. The resulting mixture was diluted in toluene and the organic layer was washed with HCl (10%), brine, and water. The solvent was concentrated in vacuo and the oil was purified by vacuum distillation to afford the product octyl levulinate as a clear oil.

reactant | levulinic acid | 1.72 mol, 200 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | K2CO3 | 2.58 mol, 357 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.17 mol, 55.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | octyl levulinate | C(CCC(=O)C)(=O)OCCCCCCCC | C13H24O3
